US08034812B2
Production of tert-butyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate
To a solution of 3-amino-6-iodopyridazine (10.0 g, 45.2 mmol) in N,N-dimethylacetamide (100 mL) were added tert-butyl (chloroacetyl)carbamate (14.0 g, 72.4 mmol) and disodium hydrogenphosphate (16.1 g, 113 mmol), and the mixture was stirred at 120° C. for 3 hr. After cooling the mixture to room temperature, water (400 mL) was added to the mixture, and the precipitated crystals were filtrated, and washed with acetonitrile and petroleum ether to give the title compound (10.2 g, 63%) as a green powder.

reactant | 3-amino-6-iodopyridazine | 45.2 mmol, 10.0 g | NC=1N=NC(=CC1)I | C4H4IN3
reactant | tert-butyl (chloroacetyl)carbamate | 72.4 mmol, 14.0 g | ClCC(=O)NC(OC(C)(C)C)=O | C7H12ClNO3
reactant | disodium hydrogenphosphate | 113 mmol, 16.1 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | water | 400 mL | O | H2O
solvent | N,N-dimethylacetamide | 100 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate | 10.2 g, 63% | IC=1C=CC=2N(N1)C=C(N2)NC(OC(C)(C)C)=O | C11H13IN4O2
